US07615569B2
A mixture of 4-acetyl-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide (0.45 mmol), potassium cyanate (1.53 mmol), and ammonium carbonate (4.5 mmol) in ethanol and water (5 mL, 1:1) was stirred at 135° C. in a microwave reactor for 10 min. The reaction mixture was quenched with 6N HCl aqueous solution. After neutralized with saturated NaHCO3, the mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by reverse phase HPLC to give 4-(2,5-dioxo-imidazolidin-4-yl)-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide (0.2 mmol).

reactant | 4-acetyl-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | 0.45 mmol | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N(C=1SC=CN1)COC | C13H14N2O4S2
reactant | potassium cyanate | 1.53 mmol | [O-]C#N.[K+]
reactant | ammonium carbonate | 4.5 mmol | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | 4-(2,5-dioxo-imidazolidin-4-yl)-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | 0.2 mmol | O=C1NC(C(N1)C1=CC=C(C=C1)S(=O)(=O)N(C=1SC=CN1)COC)=O | C14H14N4O5S2
